US07713994B2
To a suspension of 6-bromo-4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione (221 mg, 0.5 mmol) in N,N-dimethylformamide (5 mL) is added 3-fluorobenzeneboronic acid (84 mg, 0.6 mmol), followed by 300 □L of 2M aqueous cesium carbonate and tetrakis triphenylphosphine palladium (30 mg, 0.06 mmol). The reaction mixture is subjected to microwave heating at 180° C. for 300 seconds. The reaction mixture is then diluted with N,N-dimethylformamide and purified by C18 reverse phase HPLC. The pure fractions were combined and concentrated to yield 6-(3-Fluoro-phenyl)-4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione (65.2 mg).

reactant | 6-bromo-4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione | 0.5 mmol, 221 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)N1CCN(CC1)C | C21H21BrN4O2
reactant | 3-fluorobenzeneboronic acid | 0.6 mmol, 84 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | cesium carbonate | 2M | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 6-(3-Fluoro-phenyl)-4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione | 65.2 mg | FC=1C=C(C=CC1)C=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)N1CCN(CC1)C | C27H25FN4O2
